US08372874B2
To a solution of 446 mg (1.02 mmol) of N-[1-ethyl-5-(4-methoxy-phenyl)-1H[1,2,4]triazol-3-yl]-2-methyl-2-(tetrahydro-pyran-4-sulfonyl)-propionamide in ethanethiol (5 mL) are added 801 mg (3.01 mmol) of aluminium tribromide. The reaction is stirred at room temperature for 3 h. The reaction is quenched by addition of 6M aqueous HCl solution (2 mL). The resulting precipitate is isolated by filtration, washed with methanol and retreteated with 801 mg (3.01 mmol) of aluminium tribromide in ethanethiol (5 mL) at room temperature for further 3 h. The reaction is quenched by addition of 6M aqueous HCl solution (2 mL). The aqueous layer is extracted with ethyl acetate (3×20 mL). The combined organic extracts are dried over Na2SO4, filtered and the filtrate is concentrated under reduced pressure. The residue is purified by mass-directed preparative HPLC (neutral method) to afford 110 mg of N-[1-ethyl-5-(4-hydroxy-phenyl)-1H-[1,2,4]triazol-3-yl]-2-methyl-2-(tetrahydro-pyran-4-sulfonyl)-propionamide. Yield: 26%, ES-MS: m/z 423 [M+H].

reactant | N-[1-ethyl-5-(4-methoxy-phenyl)-1H[1,2,4]triazol-3-yl]-2-methyl-2-(tetrahydro-pyran-4-sulfonyl)-propionamide | 1.02 mmol, 446 mg | C(C)N1N=C(N=C1C1=CC=C(C=C1)OC)NC(C(C)(S(=O)(=O)C1CCOCC1)C)=O | C20H28N4O5S
reactant | aluminium tribromide | 3.01 mmol, 801 mg | [Br-].[Br-].[Br-].[Al+3]
reactant | aluminium tribromide | 3.01 mmol, 801 mg | [Br-].[Br-].[Br-].[Al+3]
solvent | ethanethiol | 5 mL | C(C)S | C2H6S
solvent | ethanethiol | 5 mL | C(C)S | C2H6S
product | N-[1-ethyl-5-(4-hydroxy-phenyl)-1H-[1,2,4]triazol-3-yl]-2-methyl-2-(tetrahydro-pyran-4-sulfonyl)-propionamide | 110 mg, Yield: 26% | C(C)N1N=C(N=C1C1=CC=C(C=C1)O)NC(C(C)(S(=O)(=O)C1CCOCC1)C)=O | C19H26N4O5S
